US09284308B2
{2-Azetidin-1-yl-4-chloro-3-[4-(trifluoromethyl)benzyl]quinolin-6-yl}(1,2-dimethyl-1H-imidazol-5-yl)methanol
2-(Azetidin-1-yl)-6-bromo-4-chloro-3-(4-(trifluoromethyl)benzyl)quinoline (1.00 g, 2.19 mmol, Intermediate 69: step a) was dissolved in THF (20 mL) in a dry round bottom flask under an N2 atmosphere, then cooled to −78° C. in dry ice acetone bath. n-BuLi (1.6 M in hexanes, 1.74 mL, 2.79 mmol) was then added dropwise via syringe over approximately 5 minutes. The contents were stirred at −78° C. for approximately 10 minutes, then a solution of 1,2-dimethyl-1H-imidazole-5-carbaldehyde (0.30 g, 2.4 mmol) in THF (20 mL) was added via cannula and the resulting mixture stirred for 10 minutes at −78° C. The dry ice bath was then removed and replaced with an ice water bath and the mixture stirred at 0° C. for approximately one hour. The reaction was then quenched with a saturated, aqueous NH4Cl solution, then transferred to a separatory funnel with EtOAc. The organic phase was extracted with a saturated, aqueous NH4Cl solution and deionized water, then separated and dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by flash column chromatography (silica gel, 0-10% DCM/(10% of a 2 M NH3 MeOH in DCM) to provide the title compound.

reactant | 2-(Azetidin-1-yl)-6-bromo-4-chloro-3-(4-(trifluoromethyl)benzyl)quinoline | N1(CCC1)C1=NC2=CC=C(C=C2C(=C1CC1=CC=C(C=C1)C(F)(F)F)Cl)Br | C20H15BrClF3N2
reactant | n-BuLi | 2.79 mmol, 1.6 M, 1.74 mL | [Li]CCCC
reactant | 1,2-dimethyl-1H-imidazole-5-carbaldehyde | 2.4 mmol, 0.30 g | CN1C(=NC=C1C=O)C | C6H8N2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | {2-Azetidin-1-yl-4-chloro-3-[4-(trifluoromethyl)benzyl]quinolin-6-yl}(1,2-dimethyl-1H-imidazol-5-yl)methanol | N1(CCC1)C1=NC2=CC=C(C=C2C(=C1CC1=CC=C(C=C1)C(F)(F)F)Cl)C(O)C1=CN=C(N1C)C | C26H24ClF3N4O
